US05212320
A mixture of 4-[3-(3-aminobenzoyl)indol-1-yl]butyric acid (880 mg), bis(4-isobutylphenyl)methyl chloride (1.03 g) and diisopropylethylamine (0.945 g) in dichloromethane (20 ml) was stirred at 25° C. overnight, and bis(4-isobutylphenyl)methyl chloride (170 mg) and diisopropylethylamine (86 mg) were added thereto. After stirring at 25° C. for 3 hours, the reaction mixture was poured into cold 1N hydrochloric acid. The organic layer was separated, washed with water, and dried over magnesium sulfate. After evaporation of the solvent, the residue was chromatographed on silica gel (100 g) with a mixture of chloroform and methanol (50:1) as eluent and freeze-dried from benzene to give 4-[3-[3-(bis[4-isobutylphenyl)methylamino]benzoyl]indol-1-yl]butyric acid (820 mg) as pale yellow powder.

reactant | 4-[3-(3-aminobenzoyl)indol-1-yl]butyric acid | 880 mg | NC=1C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)O)C=CC1 | C19H18N2O3
reactant | bis(4-isobutylphenyl)methyl chloride | 1.03 g | C(C(C)C)C1=CC=C(C=C1)C(C1=CC=C(C=C1)CC(C)C)Cl | C21H27Cl
reactant | diisopropylethylamine | 0.945 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | bis(4-isobutylphenyl)methyl chloride | 170 mg | C(C(C)C)C1=CC=C(C=C1)C(C1=CC=C(C=C1)CC(C)C)Cl | C21H27Cl
reactant | diisopropylethylamine | 86 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-[3-[3-(bis[4-isobutylphenyl)methylamino]benzoyl]indol-1-yl]butyric acid | 820 mg | C(C(C)C)C1=CC=C(C=C1)C(C1=CC=C(C=C1)CC(C)C)NC=1C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)O)C=CC1 | C40H44N2O3
